US08563577B2
Preparation of (R)-1-((5-phenyl-1,2,4-oxadiazol-3-yl)methyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (Diastereomer 1 of C63)
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (100 mg, 0.30 mmol) in EtOAc (2 ml) and acetonitrile (0.99 ml) was added 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole (I45) (69.4 mg, 0.36 mmol). The pale yellow solution was stirred at room temperature for 24 hours. The suspension was filtered on a buckner funnel washing with EtOAc (5 ml). The white solid was recovered from the filter to obtain the title compound (98 mg, 62.1% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.30 mmol, 100 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole | 0.36 mmol, 69.4 mg | ClCC1=NOC(=N1)C1=CC=CC=C1 | C9H7ClN2O
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 0.99 ml | C(C)#N | C2H3N
product | (R)-1-((5-phenyl-1,2,4-oxadiazol-3-yl)methyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 98 mg, 62.1% yield | [Cl-].C1(=CC=CC=C1)C1=NC(=NO1)C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O | InChI=1S/C30H31N4O3.ClH/c35-30(28(23-10-4-1-5-11-23)31-25-14-8-3-9-15-25)36-26-20-34(18-16-22(26)17-19-34)21-27-32-29(37-33-27)24-12-6-2-7-13-24;/h1-15,22,26,28,31H,16-21H2;1H/q+1;/p-1/t22?,26-,28+,34?;/m0./s1
